US09382222B2
To a solution of N-(4-chloro-benzyl)-4-((+/−)trans-3-hydroxy-piperidin-4-yloxy)-N-isobutyl-benzenesulfonamide (202 mg, 447 μmol) in DCM (10 mL) was added triethylamine (187 μL, 1.34 mmol) followed by triisopropylsilyltrifluoromethanesulfonate (132 μL, 492 μmol) and the reaction was stirred at room temperature for 1 hour. To the reaction was added Et3N (187 μL, 1.34 mmol) followed by triisopropylsilyltrifluoromethanesulfonate (132 μL, 492 μmol) and reaction stirred for a further 30 minutes at room temperature. Water was added, and the mixture was extracted with DCM, filtered through a phase separator, concentrated then purified by silica gel column chromatography (0-10% MeOH in DCM) to give N-(4-chloro-benzyl)-N-isobutyl-4-((+/−)trans-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide (189 mg, 70%). LCMS (m/z, Method A) ES+ 609 [M+1]+.

reactant | N-(4-chloro-benzyl)-4-((+/−)trans-3-hydroxy-piperidin-4-yloxy)-N-isobutyl-benzenesulfonamide | 447 μmol, 202 mg | ClC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CNCC2)O)CC(C)C)C=C1 | C22H29ClN2O4S
reactant | triethylamine | 1.34 mmol, 187 μL | C(C)N(CC)CC | C6H15N
reactant | triisopropylsilyltrifluoromethanesulfonate | 492 μmol, 132 μL | C(C)(C)[Si](C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F | C10H21F3O3SSi
reactant | Et3N | 1.34 mmol, 187 μL | CCN(CC)CC | C6H15N
reactant | triisopropylsilyltrifluoromethanesulfonate | 492 μmol, 132 μL | C(C)(C)[Si](C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F | C10H21F3O3SSi
reactant | Water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-benzyl)-N-isobutyl-4-((+/−)trans-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide | 189 mg, 70% | ClC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CNCC2)O[Si](C(C)C)(C(C)C)C(C)C)CC(C)C)C=C1 | C31H49ClN2O4SSi
